US07423147B2
Step B. 2-Bromo-6-piperidin-1-yimethyl-pyridine.
The title compound was prepared in a manner similar to that described in Example 18, Step C, using 6-bromo-pyridine-2-carbaldehyde (0.406 g, 2.18 mmol) and piperidine (0.186 g, 2.18 mmol). The crude product was purified (SiO2: 0-4% 2 M NH3 in MeOH/DCM) to provide the title compound (0.46 g, 83%).

reactant | 6-bromo-pyridine-2-carbaldehyde | 2.18 mmol, 0.406 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | piperidine | 2.18 mmol, 0.186 g | N1CCCCC1 | C5H11N
product | 2-Bromo-6-piperidin-1-yimethyl-pyridine | 0.46 g, 83% | BrC1=NC(=CC=C1)CN1CCCCC1 | C11H15BrN2
